US07053245B2
a)-Nitro-4-(3-fluoro-phenoxymethyl)-benzene
A solution of 2.0 g (13 mmol) 4-nitrobenzyl alcohol and 3.60 g (13.7 mmol) triphenylphosphine in 30 ml tetrahydrofurane is treated with 1.54 g (13.7 mmol) of 3-fluorophenol. The mixture is cooled in an ice-bath and 2.39 g (13.7 mmol) of diethyl-aza-dicarboxylate is slowly added. The ice-bath is removed and the reaction mixture stirred over night at room temperature. The tetrahydrofuran is evaporated, the oily residue triturated with diethyl ether, filtered and concentrated. Chromatography (silica gel, ethyl acetate/hexane 1:9) yields 2.52 g (78%) of the title compound as a slightly yellow solid. MS: m/e=247.1 (M++H).

reactant | 4-nitrobenzyl alcohol | 13 mmol, 2.0 g | [N+](=O)([O-])C1=CC=C(CO)C=C1 | C7H7NO3
reactant | triphenylphosphine | 13.7 mmol, 3.60 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-fluorophenol | 13.7 mmol, 1.54 g | FC=1C=C(C=CC1)O | C6H5FO
solvent | tetrahydrofurane | 30 ml | O1CCCC1 | C4H8O
product | Nitro-4-(3-fluoro-phenoxymethyl)-benzene | 2.52 g, 78% | [N+](=O)([O-])C1=CC=C(C=C1)COC1=CC(=CC=C1)F | C13H10FNO3
